US09127024B2
Step 4: Synthesis of Methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
In a 100 ml 3-neck round bottom flask equipped with a condenser, magnetic stirrer and nitrogen outlet was placed methyl 2-fluoro-3-iodo-4-methylbenzoate (2.0 g, 6.80 mmol), 10.0 ml of anhydrous 1,4-dioxane, diacetoxypalladium (0.076 g, 0.340 mmol) and [1,1′-biphenyl]-2-yldicyclohexylphosphine (0.477 g, 1.360 mmol) under nitrogen. 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.96 ml, 20.40 mmol) was added drop wise via syringe. The reaction mixture was heated at 60° C. for 2 hours and stirred at room temperature overnight. LCMS showed almost 100% conversion. The dioxane was removed and the residue was purified on 80 g ISCO silica column using ethyl acetate/hexane gradient and then switched to methanol/DCM gradient to give 1.25 g (62.5%) of IXS-5-48-1, 1.25 g (62.5%). 1H NMR (DMSO-d6, 400 MHz) δ 7.81 (t, 1H), 7.16 (d, 1H), 3.83 (s, 3H), 2.42 (s, 3H), 1.33 (s, 12H), and MS: [MH+]=295).

reactant | methyl 2-fluoro-3-iodo-4-methylbenzoate | 6.80 mmol, 2.0 g | FC1=C(C(=O)OC)C=CC(=C1I)C | C9H8FIO2
reactant | [1,1′-biphenyl]-2-yldicyclohexylphosphine | 1.360 mmol, 0.477 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 20.40 mmol, 2.96 ml | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | diacetoxypalladium | 0.340 mmol, 0.076 g | C(C)(=O)O[Pd]OC(C)=O
solvent | 1,4-dioxane | 10.0 ml | O1CCOCC1 | C4H8O2
product | Methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | FC1=C(C(=O)OC)C=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C15H20BFO4
